US04943574
A mixture of 3.2 parts of 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol, 1 part of potassium carbonate and 27 parts of N,N-dimethylformamide was stirred for 30 minutes at room temperature. 2.1 Parts of 1-(chloromethyl)-3-methylbenzene were added and stirring was continued for 3 hours at room temperature. The mixture was allowed to stand overnight at room temperature and was evaporated. The residue was diluted with water and the product was extracted with dichloromethane. The extract was dried, filtered and concentrated. The concentrate was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The solid residue was crystallized from a mixture of ethyl acetate and 2,2'-oxybispropane (10:20 by volume). The product was filtered off, washed with 2,2'-oxybispropane and dried, yielding 3.4 parts (70.9%) of 6-(1H-imidazol-1-ylmethyl)-1-[(3-methylphenyl)methoxy]-1H-benzotriazole; mp. 120.1° C. (compound 160). In a similar manner there were also prepared:

reactant | 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)O)C1 | C10H9N5O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(chloromethyl)-3-methylbenzene | ClCC1=CC(=CC=C1)C | C8H9Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-(1H-imidazol-1-ylmethyl)-1-[(3-methylphenyl)methoxy]-1H-benzotriazole | 70.9% | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)OCC2=CC(=CC=C2)C)C1 | C18H17N5O
